US07790714B2
(S)-6-amino-7-hydroxy-3,4-dihydro-1H-isoquinoline-2,3-dicarboxylic acid 2-isopropyl ester 3-methyl ester (1.8 g) was dissolved in 10 mL EtOAc, 20 mL water and 5.0 g sodium bicarbonate added. 2-Chloro-2-[4-(3,4-dichloro-benzyloxy)-phenyl]-acetyl chloride in 10 mL of EtOAc was added and the mixture stirred at rt for 1.5 h. The organic layer was washed with brine, dried and evaporated. The residue was dissolved in 15 mL DMF and potassium carbonate (4.1 g) added. The mixture stirred at r.t. for 3 h and was poured onto water and EtOAc. The organic was washed with 1N HCl, dried and evaporated. The residue was purified over silica (hexanes-EtOAc-2M ammonia in MeOH) to provide (S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-isopropyl ester 7-methyl ester (2.0 g). LC-MS (m/z) 600.

reactant | (S)-6-amino-7-hydroxy-3,4-dihydro-1H-isoquinoline-2,3-dicarboxylic acid 2-isopropyl ester 3-methyl ester | 1.8 g | COC(=O)[C@H]1N(CC2=CC(=C(C=C2C1)N)O)C(=O)OC(C)C | C15H20N2O5
reactant | water | 20 mL | O | H2O
reactant | sodium bicarbonate | 5.0 g | C([O-])(O)=O.[Na+]
reactant | 2-Chloro-2-[4-(3,4-dichloro-benzyloxy)-phenyl]-acetyl chloride | ClC(C(=O)Cl)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl | C15H10Cl4O2
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | (S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6,7-dicarboxylic acid 6-isopropyl ester 7-methyl ester | 2.0 g | COC(=O)C1N(CC=2C=C3O[C@H](C(NC3=CC2C1)=O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl)C(=O)OC(C)C | C30H28Cl2N2O7
